US07169926B1
According to the procedure described in example 3, step E; [3-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester (94 mg, 0.22 mmol) in DMF (3.5 mL) was alkylated with benzyl bromide to give, after work-up and chromatography, [3-(3-benzyl-5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester (80 mg, 70% yield). 1H-NMR (CDCl3): δ 8.38 (m, 1H), 7.52 (m, 1H), 7.42 (m, 1H), 7.22–7.37 (m, 9H), 7.12 (m, 1H), 5.97 (m, 1H), 5.82 (m, 1H), 5.09 (s, 2H), 3.78 (s, 3H), 3.68 (m, 1H), 2.94 (m, 1H), 2.08 (m, 1H), 1.93 (m, 1H), 1.81 (m, 2H), 1.73 (m, 1H), 1.62 (m, 2H), 1.35 (m, 2H). MS: calculated for C33H31N5O3+H 521.3; found: 521.2.

reactant | [3-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 0.22 mmol, 94 mg | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1)=O | C25H26N4O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | [3-(3-benzyl-5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 80 mg, 70% yield | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1CC1=CC=CC=C1)=O | C32H32N4O3
